US09382254B2
Step 2-Amino-5-(4-trifluoromethoxy-benzenesulfonyl)-thiophene-3-carboxylic acid amide
The 2-acetylamino-5-(4-trifluoromethoxy-benzenesulfonyl)-thiophene-3-carboxylic acid amide (10 g, crude) is dissolved in 1,4-dioxane (300 mL) and an aqueous solution of 2 M HCl (100 mL). This mixture is stirred at 105° C. overnight, after which the dioxane is concentrated in vacuo and the remaining aqueous basified with an aqueous solution of 5 M NaOH to pH-8-9. The resulting precipitate is collected by filtration, washed thoroughly with water and dried to afford the desired compound.

reactant | 2-acetylamino-5-(4-trifluoromethoxy-benzenesulfonyl)-thiophene-3-carboxylic acid amide | 10 g | C(C)(=O)NC=1SC(=CC1C(=O)N)S(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C14H11F3N2O5S2
reactant | HCl | 2 M, 100 mL | Cl | ClH
solvent | 1,4-dioxane | 300 mL | O1CCOCC1 | C4H8O2
product | 2-Amino-5-(4-trifluoromethoxy-benzenesulfonyl)-thiophene-3-carboxylic acid amide | NC=1SC(=CC1C(=O)N)S(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C12H9F3N2O4S2
